US08314129B2
(S)-1-[4-{3-[4-(6-fluoro-benzo(d)isoxazol-3-yl)-piperidin-1-yl]-propoxy}-3-methoxy-phenyl]ethanol
56.36 g of boran complex of (3aR,7R)-1-methyl-3,3-diphenyl-tetrahydro-pyrrolo[1,2c][1,3,2]oxazaborole (1 equivalent) is dissolved under nitrogen in methylenchloride, and the solution is cooled to 0° C. A 1M solution of 1-(4-{3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)piperidin-1-yl]propoxy}-3-methoxy-phenyl)-ethanone (Iloperidone; 1 equivalent) in methylenchloride is added via a dropping funnel over 90 minutes while the internal temperature is maintained at 0° C.±2° C. After the addition is complete, the mixture is stirred at 0° C. for 20 hours. The reaction mixture is then poured into precooled methanol (0-5° C.) during 1 hour. The solution is warmed to room temperature and stirred until the H2 evolution ceases. The solution is concentrated by distillation and the residue dried in vacuum, treated with methanol and stirred for about 1 hour at 50° C. and an additional hour at 0° C. The product is isolated by filtration and dried under reduced pressure for 3 hours at 50° C. The title compound is obtained (white crystals).

reactant | 1-(4-{3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)piperidin-1-yl]propoxy}-3-methoxy-phenyl)-ethanone | 1 equivalent | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=C(C=C2)C(C)=O)OC)C=C1 | C24H27FN2O4
reactant | methanol | CO | CH4O
solvent | methylenchloride | C(Cl)Cl | CH2Cl2
product | (S)-1-[4-{3-[4-(6-fluoro-benzo(d)isoxazol-3-yl)-piperidin-1-yl]-propoxy}-3-methoxy-phenyl]ethanol | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=C(C=C2)[C@H](C)O)OC)C=C1 | C24H29FN2O4
